US05366987
(d) (±)-4-Dodecyl-α-phenyl-N-(2,4,6-trimethoxyphenyl)-2H-1,2,3-triazole-2-acetamide
Triethylamine (1.2 mL, 8.4 mmol) was added to a suspension of 2,4,6-trimethoxyaniline hydrochloride (1.68 g, 7.7 mmol) in 100 mL THF and stirred for 1 hour before filtering to remove triethylamine hydrochloride. The filtrate was concentrated and redissolved in 100 mL dichloromethane along with (±)-4-dodecyl-α-phenyl-2H-1,2,3-triazole-2-acetic acid (2.59 g, 7.0 mmol) at 0° C. Dicyclohexylcarbodiimide (1.51 g, 7.3 mmol) was added in one portion and the resulting suspension was warmed to room temperature and stirred for 16 hours. Filtered to remove a white solid and partitioned the filtrate between chloroform and 1N HCl. The organic layer was dried over MgSO4, filtered, and concentrated to give a pale lavender solid. Recrystallization from ethyl acetate/hexanes (4:1) gave the title compound as a white solid (2.80 g, 75%); mp 123°-125° C.

reactant | Triethylamine | 8.4 mmol, 1.2 mL | C(C)N(CC)CC | C6H15N
reactant | 2,4,6-trimethoxyaniline hydrochloride | 7.7 mmol, 1.68 g | Cl.COC1=C(N)C(=CC(=C1)OC)OC
reactant | (±)-4-dodecyl-α-phenyl-2H-1,2,3-triazole-2-acetic acid | 7.0 mmol, 2.59 g | C(CCCCCCCCCCC)C1=NN(N=C1)C(C(=O)O)C1=CC=CC=C1 | C22H33N3O2
reactant | Dicyclohexylcarbodiimide | 7.3 mmol, 1.51 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (±)-4-Dodecyl-α-phenyl-N-(2,4,6-trimethoxyphenyl)-2H-1,2,3-triazole-2-acetamide | 2.80 g, 75% | C(CCCCCCCCCCC)C1=NN(N=C1)C(C(=O)NC1=C(C=C(C=C1OC)OC)OC)C1=CC=CC=C1 | C31H44N4O4
